US08026251B2
(5R,9R,11E)-5-methylamino-11-ethylidene-5,6,9,10-tetrahydro-7-methyl-5,9-methanocycloocta[b]pyridin-2(1H)-one
Huperzine A 10 mg, and 37% aqueous solution of formaldehyde were refluxed for 1 hour in 2 mL of isopropanol; the solvent was stripped in vacuo; THF (dry, 5 mL) and NaBH(OOCCH3)3 0.15 g were added, the reaction mixture was allowed to stir for 4 hours; and then filtered to remove solid substances. The filtrate was purified after concentrating on prep TLC (chloroform:methanol=9:1) to yield 6 mg of pure title compound. MS: 257 (M+1).

reactant | Huperzine A | 10 mg | C/C=C/1\[C@@H]2CC3=C([C@@]1(CC(=C2)C)N)C=CC(=O)N3 | C15H18N2O
reactant | formaldehyde | C=O | CH2O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | isopropanol | 2 mL | C(C)(C)O | C3H8O
product | (5R,9R,11E)-5-methylamino-11-ethylidene-5,6,9,10-tetrahydro-7-methyl-5,9-methanocycloocta[b]pyridin-2(1H)-one | 6 mg | CN[C@@]1/2CC(=C[C@@H](CC=3NC(C=CC31)=O)\C2=C/C)C | C16H20N2O
